US07572797B2
N-[6-amino-5-(2,3,5-trichlorophenyl)pyrazin-2-yl]isoxazole-3-carboxamide was prepared by a method analogous to Method B, as described above for Example 2, using 3-isoxazolecarboxylic acid and 3-(2,3,5-trichlorophenyl)pyrazine-2,6-diamine (Preparation 12).

reactant | 3-isoxazolecarboxylic acid | O1N=C(C=C1)C(=O)O | C4H3NO3
reactant | 3-(2,3,5-trichlorophenyl)pyrazine-2,6-diamine | ClC1=C(C=C(C=C1Cl)Cl)C=1C(=NC(=CN1)N)N | C10H7Cl3N4
product | N-[6-amino-5-(2,3,5-trichlorophenyl)pyrazin-2-yl]isoxazole-3-carboxamide | NC1=C(N=CC(=N1)NC(=O)C1=NOC=C1)C1=C(C(=CC(=C1)Cl)Cl)Cl | C14H8Cl3N5O2
